US06350892B1
N-Ethyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluoro-but-1-yl)phenoxy]ethyl]dodecylamine
2-[N-Dodecyl-N-ethylamino]ethanol (250 mg, 0.96 mmol) and 4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenol (230 mg, 0.87 mmol) were reacted under Mitsunobu conditions as described in the preparation of 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, methyl ester. The usual work-up followed by chromatography on silica gel (Hexane/ethyl acetate 95:5 to 80:20) afforded the title compound (200 mg, 46%) as a colorless oil.

reactant | 2-[N-Dodecyl-N-ethylamino]ethanol | 0.96 mmol, 250 mg | C(CCCCCCCCCCC)N(CC)CCO | C16H35NO
reactant | 4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenol | 0.87 mmol, 230 mg | COC(CCC1=CC=C(C=C1)O)(C(F)(F)F)OC | C12H15F3O3
reactant | 3-[4-[2-(N-dodecyl-N-methylamino)ethoxy]phenyl]propanoic acid, methyl ester | C(CCCCCCCCCCC)N(C)CCOC1=CC=C(C=C1)CCC(=O)OC | C25H43NO3
product | N-Ethyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluoro-but-1-yl)phenoxy]ethyl]dodecylamine | 200 mg, 46% | C(C)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C28H48F3NO3
